US09353107B2
Step-ii: N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(2-hydroxyethoxyl)phenyl)methanesulfonamide
A stirred solution of N-(2-(2-(benzyloxy)ethoxy)-5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methane sulfonamide (120 mg, 0.151 mmol), toluene/TFA (5/5 ml) was heated to 70° C. for overnight. TLC showed reaction completion. Reaction mass was cooled to RT and solvents evaporated under reduced pressure. This afforded 152 mg of the crude titled compound. MS: m/z=704.2 (M+1).

reactant | N-(2-(2-(benzyloxy)ethoxy)-5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)phenyl)methane sulfonamide | 0.151 mmol, 120 mg | C(C1=CC=CC=C1)OCCOC1=C(C=C(C=C1)C=1C=C2C(=NC1)N(C=C2C=2C(=NN(C2C)CC2=CC(=CC=C2)F)C)S(=O)(=O)C2=CC=C(C)C=C2)NS(=O)(=O)C | C42H40FN5O6S2
reactant | toluene TFA | 5 ml | C1(=CC=CC=C1)C.C(=O)(C(F)(F)F)O
product | N-(5-(3-(1-(3-fluorobenzyl)-3,5-dimethyl-1H-pyrazol-4-yl)-1-tosyl-1H-pyrrolo[2,3-b]pyridin-5-yl)-2-(2-hydroxyethoxyl)phenyl)methanesulfonamide | FC=1C=C(CN2N=C(C(=C2C)C2=CN(C3=NC=C(C=C32)C=3C=CC(=C(C3)NS(=O)(=O)C)OCCO)S(=O)(=O)C3=CC=C(C)C=C3)C)C=CC1 | C35H34FN5O6S2
